US09278954B2
N-Ethyl-2-(4-hydroxy-phenyl)-propionamide
To 4.00 g (24.1 mmol) 2-(4-hydroxyphenyl)propionic acid in 50 mL THF and 5 ml DMF are added 6.76 g (66.1 mmol) TEA and 8.50 g TBTU. The reaction mixture is stirred at r.t. for 5 min, then 36.1 ml (2 mold solution; 72.2 mmol) ethylamine are added. The reaction mixture is stirred at r.t. 5 h. The solvent is removed in vacuo and the crude product is purified by prep. HPLC-MS (ACN/H2O/NH4OH).

reactant | 2-(4-hydroxyphenyl)propionic acid | 24.1 mmol, 4.00 g | OC1=CC=C(C=C1)C(C(=O)O)C | C9H10O3
reactant | TBTU | 8.50 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethylamine | 72.2 mmol, 36.1 ml | C(C)N | C2H7N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-Ethyl-2-(4-hydroxy-phenyl)-propionamide | C(C)NC(C(C)C1=CC=C(C=C1)O)=O | C11H15NO2
